US07652064B2
2-Ethoxy-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid
The resultant ester may be hydrolyzed in the following manner: Mix 2-ethoxy-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid ethyl ester (38 g, 80 mmol), in ethanol (100 mL) and NaOH 2 M in water (400 mL) and stir the reaction mixture for one hour at RT. Evaporate the ethanol and wash the aqueous mixture with 200 mL of EtOAc. Acidify the aqueous mixture to pH 2 using HCl 1N. Extract the desired product with EtOAc. Dissolve the crude in warmed acetone (500 ml) and add water (600 ml), maintaining the temperature at 55° C. Stir the mixture at 60° C. for 1 hour and then to RT. overnight. Filtrate the precipitate and dry under vacuum at 45° C. overnight. Yield 28 g, 78%. 1H NMR (300 MHz, DMSO): δ 1.14 (d, J=7.0 Hz, 6H), 1.31 (t, J=7.0 Hz, 3H), 3.06 (sept, J=7.0 Hz, 1H), 4.13 (q, J=7.0 Hz, 2H), 7.10 (d, J=5.3 Hz, 1H), 7.48 (d, J=7.6 Hz, 1H), 7.54 (d, J=5.3 Hz, 1H), 7.58-7.68 (m,4H), 7.72 (d, J=8.4 Hz, 2H), 9.22 (bs, 1H), 13.04 (bs, 1H).

reactant | 2-ethoxy-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid ethyl ester | 80 mmol, 38 g | C(C)OC(=O)C1=CC(=C(C=C1)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C)OCC | C24H27NO5S2
reactant | NaOH | 2 M | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 400 mL | O | H2O
product | 2-Ethoxy-4′-[3-(propane-2-sulfonylamino)-thiophen-2-yl]-biphenyl-4-carboxylic acid | C(C)OC1=C(C=CC(=C1)C(=O)O)C1=CC=C(C=C1)C=1SC=CC1NS(=O)(=O)C(C)C | C22H23NO5S2
